US05196547
Preparation of N-(tetrahydro-1H-pyrrolizin-7a(5H)-ylmethyl)imidazo [1,2-a]pyridine-2-carboxamide
Imidazo[1,2-a]pyridine-2-carboxylic acid is reacted with carbonyldiimidazole in dimethylformamide and subsequently with 7a-aminomethylhexahydro-1H-pyrrolizine to afford the title compound upon workup.

reactant | Imidazo[1,2-a]pyridine-2-carboxylic acid | N=1C(=CN2C1C=CC=C2)C(=O)O | C8H6N2O2
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 7a-aminomethylhexahydro-1H-pyrrolizine | NCC12CCCN2CCC1 | C8H16N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(tetrahydro-1H-pyrrolizin-7a(5H)-ylmethyl)imidazo [1,2-a]pyridine-2-carboxamide | C1CCN2CCCC12CNC(=O)C=1N=C2N(C=CC=C2)C1 | C16H20N4O
